US09167821B2
To a solution of 2-[3,5-bis(difluoromethyl)-1H-pyrazol-1-yl]-1-(4-{4-[5-(2-hydroxyphenyl)-4,5-dihydro-1,2-oxazol-3-yl]-1,3-thiazol-2-yl}piperidin-1-yl)ethanone (60 mg) and potassium carbonate (23 mg) in DMF (3 ml) are added, at room temperature, potassium iodide (10 mg) and 3-bromoprop-1-yne (21 mg). The reaction mixture is stirred at 80° C. for 9 h. Then the mixture is admixed with dilute hydrochloric acid and extracted with ethyl acetate. The combined organic phases are dried over sodium sulphate and concentrated. Purification by column chromatography gives 2-[3,5-bis(difluoromethyl)-1H-pyrazol-1-yl]-1-[4-(4-{5-[2-(prop-2-yn-1-yloxy)phenyl]-4,5-dihydro-1,2-oxazol-3-yl}-1,3-thiazol-2-yl)piperidin-1-yl]ethanone (40 mg).

reactant | 2-[3,5-bis(difluoromethyl)-1H-pyrazol-1-yl]-1-(4-{4-[5-(2-hydroxyphenyl)-4,5-dihydro-1,2-oxazol-3-yl]-1,3-thiazol-2-yl}piperidin-1-yl)ethanone | 60 mg | FC(C1=NN(C(=C1)C(F)F)CC(=O)N1CCC(CC1)C=1SC=C(N1)C1=NOC(C1)C1=C(C=CC=C1)O)F | C24H23F4N5O3S
reactant | potassium carbonate | 23 mg | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 10 mg | [I-].[K+]
reactant | 3-bromoprop-1-yne | 21 mg | BrCC#C | C3H3Br
reactant | hydrochloric acid | Cl | ClH
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | 2-[3,5-bis(difluoromethyl)-1H-pyrazol-1-yl]-1-[4-(4-{5-[2-(prop-2-yn-1-yloxy)phenyl]-4,5-dihydro-1,2-oxazol-3-yl}-1,3-thiazol-2-yl)piperidin-1-yl]ethanone | 40 mg | FC(C1=NN(C(=C1)C(F)F)CC(=O)N1CCC(CC1)C=1SC=C(N1)C1=NOC(C1)C1=C(C=CC=C1)OCC#C)F | C27H25F4N5O3S
